US06949648B2
2-[[3-Methyl-1-(3-pyridinylmethyl)-1H-pyrazol-5-yl]amino]benzoic acid
A solution in ethanol (50 mL) of 2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one (11.2 g, 55.1 mmol) and 3-hydrazinomethylpyridine (7.44 g, 60.4 mmol) which was prepared from 3-chloromethylpyridine following the method described in Reference Example 2-2, was heated under reflux for 1 hour. The solution was cooled to room temperature, and the resulting crude crystals were collected by filtration. The crystals were washed with ethanol and air dried to give the title compound (11.3 g, 67% yield). mp: 180-183° C. (recrystallized from ethanol).

reactant | 2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one | 55.1 mmol, 11.2 g | O=C(CC1=NC2=C(C(O1)=O)C=CC=C2)C | C11H9NO3
reactant | 3-hydrazinomethylpyridine | 60.4 mmol, 7.44 g | N(N)CC=1C=NC=CC1 | C6H9N3
reactant | 3-chloromethylpyridine | ClCC=1C=NC=CC1 | C6H6ClN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-[[3-Methyl-1-(3-pyridinylmethyl)-1H-pyrazol-5-yl]amino]benzoic acid | 11.3 g, 67% yield | CC1=NN(C(=C1)NC1=C(C(=O)O)C=CC=C1)CC=1C=NC=CC1 | C17H16N4O2
